* C:\users\tta21\My Documents\work\Univali\2021-2\Eletronica Basica\A_08-10\Draft1.asc
V1 N001 0 12
I1 0 N002 1
Q1 P001 N002 0 0 2N4124
R1 N001 P001 1
.model NPN NPN
.model PNP PNP
.lib C:\users\tta21\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V1 0 10 1 I1 0 0.001 0.0001
.backanno
.end
